* D:\home\brosnan\Desktop\opampdouble.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 12
V2 0 N002 12
X§U1 OPAMP_INPUT FBCK N001 N002 OPAMP_OUTPUT level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R1 OPAMP_OUTPUT FBCK 10000
R2 FBCK 0 10000
V3 OPAMP_INPUT 0 1
.dc V3 0 5 0.1
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp.asy)
.lib UniversalOpAmp1.lib
.backanno
.end
